US08877782B2
5-Bromo-2-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridine
To a solution of (5-methyl-3-phenyl-isoxazol-4-yl)-methanol (189 mg, 1.0 mmol) in THF (12 mL) was added 2-hydroxy-5-bromopyridine (191 mg, 1.1 mmol) and triphenylphosphine (393 mg, 1.5 mmol) at ambient temperature under an argon atmosphere. Then diethyl azodicarboxylate (233 μL, 1.5 mmol) was added and the reaction mixture was stirred for 3 h at room temperature. Concentration and purification by chromatography (SiO2, heptane:ethyl acetate=100:0 to 1:1) afforded the title compound (144 mg, 42%) as a colourless gum. MS: m/e=345.0/347.1 [M+H]+.

reactant | (5-methyl-3-phenyl-isoxazol-4-yl)-methanol | 1.0 mmol, 189 mg | CC1=C(C(=NO1)C1=CC=CC=C1)CO | C11H11NO2
reactant | 2-hydroxy-5-bromopyridine | 1.1 mmol, 191 mg | OC1=NC=C(C=C1)Br | C5H4BrNO
reactant | triphenylphosphine | 1.5 mmol, 393 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.5 mmol, 233 μL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | 5-Bromo-2-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridine | 144 mg, 42% | BrC=1C=CC(=NC1)OCC=1C(=NOC1C)C1=CC=CC=C1 | C16H13BrN2O2
